US04347358
27 g of N-bromosuccinimide were added portionwise to an ice-cold solution of 30 g of t-butyl 7-formamido-3-methyl-3-cephem-4-carboxylate-1-oxide in 1600 ml of a 1:1 mixture of acetic acid and dichloromethane under exposure to light of two tungsten lamps of 150 W over 3 hours. After a total exposure of 4 hours, the reaction mixture was then washed 3 times with water, a saturated solution of sodium bicarbonate and again with water. The organic phase was treated with activated carbon, dried over magnesium sulfate and evaporated to dryness after filtration. The residue was subjected to preparative high pressure chromatography using a 4:1 mixture of dichloromethane and acetone as eluent to obtain by evaporation to dryness of the suitable fractions 10.7 g of t-butyl 3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide having the following characteristics:

reactant | N-bromosuccinimide | 27 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | t-butyl 7-formamido-3-methyl-3-cephem-4-carboxylate-1-oxide | 30 g | C(=O)NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)OC(C)(C)C)C1=O | C13H18N2O5S
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | tungsten | [W] | W
solvent | dichloromethane | ClCCl | CH2Cl2
product | t-butyl 3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide | 10.7 g | BrCC=1CS([C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC=O)=O)=O | C13H17BrN2O5S
